US04616015
A solution of sodium nitrite (0.3 g) in water (2 ml) was added dropwise to a solution of 6-(4-hydrazinophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one hydrochloride (0.92 g) in a mixture of 1N-hydrochloric acid (3 ml) and water (20 ml) under ice cooling. After stirring for 30 minutes, the resultant precipitates were collected by filtration and washed successively with water, methanol and diisopropyl ether to give 0.56 g of 6-(4-azidophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one.

reactant | sodium nitrite | 0.3 g | N(=O)[O-].[Na+]
reactant | 6-(4-hydrazinophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one hydrochloride | 0.92 g | Cl.N(N)C1=CC=C(C=C1)C=1C(NC(NN1)=O)C
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | water | 2 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 6-(4-azidophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.56 g | N(=[N+]=[N-])C1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H10N6O
